US06713499B2
To a stirred solution of 300 mg (1.12 mmol) 4-methoxy-N7-(2-methoxy-ethyl)-N7-methyl-benzothiazole-2,7-diamine and 1.12 ml (6.56 mmol) N-ethyldiisopropylamine in 10 ml THF at room temperature was added dropwise a solution of 257 mg (1.36 mmol) 4-(chloromethyl)-benzoyl chloride in 3 ml dichloromethane and stirring continued at room temperature for 16 h. The reaction mixture was then concentrated in vacuo. Flash chromatography (1/1 ethyl acetate/hexane) followed by trituration in ether and hexane afforded 200 mg (42%) 4-chloromethyl-N-{4-methoxy-7-[(2-methoxy-ethyl)-methyl-amino]-benzothiazol-2-yl}-benzamide as a light yellow crystalline solid. ES-MS m/e (%): 422 (M{37Cl}+H+, 32), 420 (M{35Cl}+H+, 100).

reactant | 4-methoxy-N7-(2-methoxy-ethyl)-N7-methyl-benzothiazole-2,7-diamine | 1.12 mmol, 300 mg | COC1=CC=C(C2=C1N=C(S2)N)N(C)CCOC | C12H17N3O2S
reactant | N-ethyldiisopropylamine | 6.56 mmol, 1.12 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-(chloromethyl)-benzoyl chloride | 1.36 mmol, 257 mg | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 4-chloromethyl-N-{4-methoxy-7-[(2-methoxy-ethyl)-methyl-amino]-benzothiazol-2-yl}-benzamide | 200 mg, 42% | ClCC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N(C)CCOC)OC)C=C1 | C20H22ClN3O3S
